US04039543
28.2 G. of methyl 4-tert. butyl-3,5-dinitrobenzoate dissolved in 200 ml. of methanol were hydrogenated under normal pressure and at room temperature in the presence of 2 g. of palladium/carbon (5%). After the uptake of the theoretical amount of hydrogen, the solution was filtered from the catalyst and evaporated. The residue was dissolved in benzene and purified over aluminum oxide, there being obtained methyl 3,5-diamino-4-tert. butylbenzoate having a melting point of 71°-73° C. after recrystallization from benzene/petroleum ether.

reactant | methyl 4-tert. butyl-3,5-dinitrobenzoate | C(C)(C)(C)C1=C(C=C(C(=O)OC)C=C1[N+](=O)[O-])[N+](=O)[O-] | C12H14N2O6
catalyst | palladium/carbon | [Pd] | Pd
solvent | methanol | CO | CH4O
product | methyl 3,5-diamino-4-tert. butylbenzoate | NC=1C=C(C(=O)OC)C=C(C1C(C)(C)C)N | C12H18N2O2
